US05783696
N-(4-Carboxyphenyl)-N-(4-toluenesulfonyl)acridine-9-carboxamide hydrobromide (5-4)
1.17 g (2 mmol) of N-(4-benzyloxycarbonylphenyl)-N-(4-toluenesulfonyl)acridine-9-carboxamide are stirred with 10 ml of 33% strength solution of hydrogen bromide in glacial acetic acid while heating at 60° C. for 4 hours. After cooling, the precipitate is filtered off with suction and dried in vacuo. Yield: 1.00 g (87% of theory)

reactant | N-(4-benzyloxycarbonylphenyl)-N-(4-toluenesulfonyl)acridine-9-carboxamide | 2 mmol, 1.17 g | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)N(C(=O)C=1C2=CC=CC=C2N=C2C=CC=CC12)S(=O)(=O)C1=CC=C(C=C1)C | C35H26N2O5S
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(4-Carboxyphenyl)-N-(4-toluenesulfonyl)acridine-9-carboxamide hydrobromide | Br.C(=O)(O)C1=CC=C(C=C1)N(C(=O)C=1C2=CC=CC=C2N=C2C=CC=CC12)S(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C28H20N2O5S.BrH/c1-18-10-16-21(17-11-18)36(34,35)30(20-14-12-19(13-15-20)28(32)33)27(31)26-22-6-2-4-8-24(22)29-25-9-5-3-7-23(25)26;/h2-17H,1H3,(H,32,33);1H
